US07338958B2
lc) Production of 5-bromo-2-chloropyrimidin-4-ol
50.5 g of 5-bromo-2,4-dichloropyrimidine is mixed with 133 ml of 2N sodium hydroxide solution and stirred for 50 minutes at 45-50° C. After cooling, it is acidified with 21 ml of concentrated hydrochloric acid while being cooled with ice. The precipitate is suctioned off, washed with water and a little methylene chloride and dried at 25-35° C. 17.12 g (36.9% of theory) of the product with a melting point of 136-145° C. (decomposition) is obtained.

reactant | 5-bromo-2,4-dichloropyrimidine | 50.5 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | sodium hydroxide | 2N, 133 ml | [OH-].[Na+]
reactant | hydrochloric acid | 21 ml | Cl | ClH
product | 5-bromo-2-chloropyrimidin-4-ol | BrC=1C(=NC(=NC1)Cl)O | C4H2BrClN2O
